US06887877B2
2-[(4-Benzofuran-2-yl-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid methyl ester (40 mg, 0.067 mmol) was taken in a mixture of THF:MeOH:H2O (3:2:1) and then added 1N aqueous solution of LiOH.H2O (0.40 mL, 0.40 mmol). The reaction mixture was stirred at room temperature for 12 h. Solvents were removed and the residue was partitioned between water and ethyl acetate. The aqueous layer was acidified using 10% KHSO4 solution. The organic layer was separated, dried (Na2SO4) and concentrated. The residue was purified by silica gel column chromatography using ethyl acetate and methanol (9:1) to obtain 2-[(4-Benzofuran-2-yl-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid. (29 mg, 75%) as a white solid. 1H NMR (CDCl3, 400 MHz): δ7.59 (d, 2H), 7.48 (d, 2H), 7.42 (d, 2H), 7.19 (m, 4H), 7.06, 6.88 (2m, 6H), 6.37 (s, 1H), 4.55 (m, 3H), 3.70 (s, 3H), 3.19, 2.85 (2m, 2H), 2.56, 2.00, 1.98 (3s, 9H). ESI− (M−H): 582.

reactant | 2-[(4-Benzofuran-2-yl-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid methyl ester | 0.067 mmol, 40 mg | COC(C(CC1=CC=CC=C1)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)C(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O | C35H35NO6S
reactant | LiOH.H2O | 0.40 mmol, 0.40 mL | O[Li].O
solvent | THF MeOH H2O | C1CCOC1.CO.O
product | 2-[(4-Benzofuran-2-yl-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid | O1C(=CC=C2C1=CC=C2)C(C2=CC=CC=C2)N(C(C(=O)O)CC2=CC=CC=C2)S(=O)(=O)C2=C(C(=C(C=C2C)OC)C)C | C34H33NO6S
